US03966766
Preparation of 1,2-di-(chlorocarbonylmethoxy)-benzene
30 g. Of the above acid are added to a mixture of 200 ml. anhydrous benzene. Then 35 g. oxalylchloride are added, the flask being protected by a calcium chloride tube. The mixture is stirred for four days and the diacid progressively dissolves as it is being transformed into the corresponding dichloride. The solution is then evaporated to dryness (without heating) leaving a brownish solid residue which is recrystallized from a mixture of chloroform-benzene giving white crystals.

reactant | oxalylchloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1,2-di-(chlorocarbonylmethoxy)-benzene | ClC(=O)COC1=C(C=CC=C1)OCC(=O)Cl | C10H8Cl2O4
